US06956052B2
8-[(2-chlorobenzoyl)amino]-1-(4-cyanophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide
1-(4-Bromophenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (5.2g) and Zn(CN)2 (0.9g) were dissolved in 100 ml DMF under N2. Then Pd(Ph3P)4 (1.38 g) was added. The reaction mixture was heated up to 100° C. under N2 for 12 hours. After the reaction is completed by HPLC, the solvent was evaporated, and the residue was suspended in ethyl acetate and water. After filtration, and washing with water and ethyl acetate, the filtrate of the organic layer was separated and dried with Na2SO4. After filtration and evaporation of solvent, the residue was triturated with ether. Solid obtained was filtered and washed with ether, then dried under vacuum. The desired compound (3.4 g) was obtained and characterized by 1H NMR, LC-MS (468, M+1), and CHN analysis. IKK-2 resin IC50≦1 μM.

reactant | 1-(4-Bromophenyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 5.2g | BrC1=CC=C(C=C1)N1N=C(C=2CCC3=C(C12)C=C(C=C3)NC(C3=C(C=CC=C3)Cl)=O)C(=O)N | C25H18BrClN4O2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.9g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(Ph3P)4 | 1.38 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-[(2-chlorobenzoyl)amino]-1-(4-cyanophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 3.4 g | ClC1=C(C(=O)NC2=CC3=C(CCC=4C(=NN(C34)C3=CC=C(C=C3)C#N)C(=O)N)C=C2)C=CC=C1 | C26H18ClN5O2
